US07423030B2
46.6. 7-Methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]-5-phenylphthalazin-1-amine dihydrochloride
This compound is obtained according to the procedure described in 2.4. by reacting 1-chloro-7-methoxy-5-phenylphthalazine with 4-amino-1-(naphthalen-2-yl-methyl)piperidine.

reactant | 1-chloro-7-methoxy-5-phenylphthalazine | ClC1=NN=CC2=C(C=C(C=C12)OC)C1=CC=CC=C1 | C15H11ClN2O
reactant | 4-amino-1-(naphthalen-2-yl-methyl)piperidine | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
product | 7-Methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]-5-phenylphthalazin-1-amine dihydrochloride | Cl.Cl.COC1=CC(=C2C=NN=C(C2=C1)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1 | InChI=1S/C31H30N4O.2ClH/c1-36-27-18-28(24-8-3-2-4-9-24)30-20-32-34-31(29(30)19-27)33-26-13-15-35(16-14-26)21-22-11-12-23-7-5-6-10-25(23)17-22;;/h2-12,17-20,26H,13-16,21H2,1H3,(H,33,34);2*1H
